US05260049
A. 2-Mesyloxyoctane
To 130 g (0.995 mol) of 2-octanol and 207 ml (1.19 mol, 1.2 equiv) of diisopropylethylamine in 1.5 L dichloromethane at 0° C. under a CaSO4 drying tube was added dropwise 84.4 ml (1.09 mol, 1.1 equiv.) of methanesulfonyl chloride over 1 hour while keeping the internal temperature at less than 5° C. The faintly yellow solution was stirred at 0° C. for an additional 1.5 h. The cold reaction solution was then washed with 2×1 L ice-cold 1M HCl and 1 L of ice-cold H2O and brine and dried over MgSO4. The residue was filtered through Celite and concentrated in vacuo below 35° C. to afford 208 g of a yellow oil. The yellow oil was placed under high-vacuum for 2 h at 25° C. to give 205 g of yellow oil. NMR spectra confirmed the desired title-product having only trace amounts of solvents present.

reactant | 2-octanol | 0.995 mol, 130 g | CC(CCCCCC)O | C8H18O
reactant | diisopropylethylamine | 1.19 mol, 207 ml, 1.2 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 1.09 mol, 84.4 ml, 1.1 equiv. | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 1.5 L | ClCCl | CH2Cl2
product | 2-Mesyloxyoctane | 208 g | S(=O)(=O)(C)OC(C)CCCCCC | C9H20O3S
